US04259509
Ethyl 2-[4-(2-thienyl-methoxyiminomethyl)-phenoxy]-2-methyl-propionate
This oily compound, which consists of a mixture of both isomers Z/E, is obtained by reacting methyl iodide with ethyl 2-[4-(2-thienyl-hydroxyiminomethyl)-phenoxy]-2-methyl-propionate dissolved in dimethyl formamide and in the presence of potassium carbonate.

reactant | methyl iodide | CI | CH3I
reactant | ethyl 2-[4-(2-thienyl-hydroxyiminomethyl)-phenoxy]-2-methyl-propionate | S1C(=CC=C1)C(C1=CC=C(OC(C(=O)OCC)(C)C)C=C1)=NO | C17H19NO4S
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 2-[4-(2-thienyl-methoxyiminomethyl)-phenoxy]-2-methyl-propionate | S1C(=CC=C1)C(C1=CC=C(OC(C(=O)OCC)(C)C)C=C1)=NOC | C18H21NO4S
